US09085576B2
Trifluoroacetic acid (1.25 mL, 5 times) was added to a stirred solution of 5-((4-methoxybenzyl)oxy)-3-methyl-2-vinylpyridine (250 mg, 0.00098 mmol) in anisole (0.5 mL). The reaction mixture was stirred for 2 h at ambient temperature. After completion of the reaction, the reaction mixture was concentrated and quenched with saturated NaHCO3 solution (2 ml). The reaction mixture was extracted with ethyl acetate (2×10 mL) and the combined organic layers were washed with brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The crude residue was triturated with pentane to afford 5-methyl-6-vinylpyridin-3-ol as an off white solid (100 mg, 76%). MS m/z=136.15 [M+H]+.

reactant | Trifluoroacetic acid | 1.25 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 5-((4-methoxybenzyl)oxy)-3-methyl-2-vinylpyridine | 0.00098 mmol, 250 mg | COC1=CC=C(COC=2C=C(C(=NC2)C=C)C)C=C1 | C16H17NO2
solvent | anisole | 0.5 mL | C1(=CC=CC=C1)OC | C7H8O
product | 5-methyl-6-vinylpyridin-3-ol | CC=1C=C(C=NC1C=C)O | C8H9NO
